US05550149
α-(5-Iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile
A mixture of 0.86 g of α-(5-chloropentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile, 3.2 g of sodium iodide, and 10 mL of acetone is heated to reflux overnight, protected from light. The volatiles are removed in vacuo and 30 mL of diethyl ether is added to the residue. The insolubles are collected and the volatiles removed in vacuo. The residue is purified via column chromatography using hexane/ethyl acetate (2:1) to afford 1.02 g of the desired product as a clear oil.

reactant | α-(5-chloropentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 0.86 g | ClCCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C22H26ClNO2S
reactant | sodium iodide | 3.2 g | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | α-(5-Iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 1.02 g | ICCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C22H26INO2S
